US05952510
Under a N2 flow, a solution of benzyltrimethylammonium dichloroiodate (78 g) in THF (250 ml) was added to a mixture of 1-[3-(cyclopentyloxy)-4-methoxyphenyl]-ethanone (26.3 g) in THF (250 ml) while stirring. The resulting reaction mixture was stirred for 16 hours at RT. The solvent was evaporated and the residue was redissolved in diethyl ether (300 ml). The mixture was added dropwise to a 5% Na2SO4 solution (400 ml). The aqueous layer was extracted twice with diethyl ether (100 ml). The combined organic layers were washed twice with water (500 ml), dried over MgSO4, filtered and the solvent evaporated. The crude oil was crystallized from hexane. The precipitate was filtered off, washed with hexane and dried, yielding 11 g of 2-chloro-1-[3-(cyclopentyloxy)-4-methoxyphenyl]ethanone. The filtrate was evaporated and the residue was crystallized from hexane. The precipitate was filtered off and dried, yielding 7.4 g (24.6%) of 2-chloro-1-[3-(cyclopentyloxy)-4-methoxyphenyl]ethanone (interm. 1).

reactant | benzyltrimethylammonium dichloroiodate | 78 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 1-[3-(cyclopentyloxy)-4-methoxyphenyl]-ethanone | 26.3 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(C)=O | C14H18O3
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2-chloro-1-[3-(cyclopentyloxy)-4-methoxyphenyl]ethanone | 11 g | ClCC(=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C14H17ClO3
